US07608723B2
Step 6b. 2-{3-[1-(1-Benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propylamino]-propyl}-isoindole-1,3-dione
To a solution of 1-(1-benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propylamine (0.56 mmol) and 3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propionaldehyde (114 mg, 0.56 mmol) in dry DCM (3 mL) at room temperature, was added sodium triacetoxyborohydride (119 mg, 0.56 mmol). After 10 min., acetic acid (34 μl, 0.56 mmol) was added to the reaction mixture. The mixture was stirred at room temperature for 1 h. The solvent was removed in vacuo and the solid was dissolved in ethyl acetate. The organic layer was washed with saturated NaHCO3, dried over MgSO4, filtered and the filtrate was concentrated in vacuo. The crude product was purified by flash chromatography to give crude material that was used in step 7.

reactant | 1-(1-benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propylamine | 0.56 mmol | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)C)C(C(C)C)N | C19H23N3
reactant | 3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propionaldehyde | 0.56 mmol, 114 mg | O=C1N(C(C2=CC=CC=C12)=O)CCC=O | C11H9NO3
reactant | sodium triacetoxyborohydride | 0.56 mmol, 119 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.56 mmol, 34 μl | C(C)(=O)O | C2H4O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-{3-[1-(1-Benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propylamino]-propyl}-isoindole-1,3-dione | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)C)C(C(C)C)NCCCN2C(C1=CC=CC=C1C2=O)=O | C30H32N4O2
